US05688796
Preparation of [2-(4-Hydroxyphenyl)-6-hydroxybenzo[b]thien-3-yl][2-[2-(1-piperidinyl)ethoxy]pyridin-5-yl]methanone
[2-(4-Methoxyphenyl)-6-methoxybenzo[b]thien-3-yl][2-[2-(1-piperidinyl)ethoxy]-pyridin-5-yl]methanone (1.8 g, 3.58 mmol) of was dissolved in 20 mL of dichloroethane and 3.1 mL (35.8 mmol) of condensed BCl3 was added. The reaction mixture was stirred at ambient temperature under a nitrogen atmosphere for forty-eight hours. The reaction was quenched with 5 mL of MeOH and reaction was stirred for one hour. The reaction volume was evaporated to half the orginal volume and chromatographed on a silica gel column eluted with a linear gradient starting with CHCl3 and ending with CHCl3 -MeOH (9:1) (v/v). The desired fractions were determined by tlc, combined, and evaporated to dryness. The crude product was again chromatographed on a silica gel column eluted with CHCl3 -MeOH (19:1). This yielded 540 mg of the title compound as a yellow-orange, amorphous solid.

reactant | [2-(4-Methoxyphenyl)-6-methoxybenzo[b]thien-3-yl][2-[2-(1-piperidinyl)ethoxy]-pyridin-5-yl]methanone | 3.58 mmol, 1.8 g | COC1=CC=C(C=C1)C1=C(C2=C(S1)C=C(C=C2)OC)C(=O)C=2C=CC(=NC2)OCCN2CCCCC2 | C29H30N2O4S
reactant | BCl3 | B(Cl)(Cl)Cl | BCl3
solvent | dichloroethane | 20 mL | ClC(C)Cl | C2H4Cl2
product | [2-(4-Hydroxyphenyl)-6-hydroxybenzo[b]thien-3-yl][2-[2-(1-piperidinyl)ethoxy]pyridin-5-yl]methanone | OC1=CC=C(C=C1)C1=C(C2=C(S1)C=C(C=C2)O)C(=O)C=2C=CC(=NC2)OCCN2CCCCC2 | C27H26N2O4S
